US06156893
Preparation of (1R,4S)-1-amino-4-(hydroxymethyl)-2-cyclopentene Hydrochloride
87.8 g of (1R,4S)-1-BOC-amino-4-hydroxymethyl-2-cyclopentene were dissolved in 270 ml of 2N HCl and 1340 ml of methanol. The mixture was boiled under reflux for 4.5 h. After distillation of the methanol, the residue was dissolved in 800 ml of water. The aqueous solution was extracted twice with 340 ml of ethyl acetate. The aqueous phase was completely evaporated (50° C./60 mbar). The solid was dried at 50° C. in vacuo, suspended in 150 ml of diethyl ether, filtered off and washed twice with 50 ml of diethyl ether. Drying resulted in the title compound in a yield of 95% (58.4 g).

reactant | (1R,4S)-1-BOC-amino-4-hydroxymethyl-2-cyclopentene | 87.8 g | C(=O)(OC(C)(C)C)[C@@]1(C=C[C@H](C1)CO)N | C11H19NO3
reactant | HCl | 2N, 270 ml | Cl | ClH
solvent | methanol | 1340 ml | CO | CH4O
product | (1R,4S)-1-amino-4-(hydroxymethyl)-2-cyclopentene Hydrochloride | yield of 95% | Cl.N[C@H]1C=C[C@H](C1)CO | InChI=1S/C6H11NO.ClH/c7-6-2-1-5(3-6)4-8;/h1-2,5-6,8H,3-4,7H2;1H/t5-,6+;/m1./s1
